US07727713B2
Succinic Acid mono-(3-tert-butoxycarbonylamino-propyl) Ester (Compound 12a)
Triethylamine (5.0 mL, 36 mmol) and di-tert-butyl dicarbonate (7.0 g, 32 mmol) were added to a solution of 3-aminopropanol (1.0 g, 26.6 mmol) in methanol (10 mL). The solution was stirred for 2 h. at room temperature. Methanol was evaporated off and the residue was dissolved in water (50 mL) and extracted with dichloromethane (50 mL). The organic phase was dried (Na2SO4) and concentrated in vacuo. The crude material was dissolved in dichloromethane (20 mL) and DMF (4 mL). Triethylamine (5.0 mL, 36 mmol) and succinic anhydride (3.0 g, 30 mmol) were added portion wise to the solution (exothermic reaction). The reaction mixture was stirred for 2 h, then concentrated and worked-up by RP-HPLC (eluent: water→methanol). Yield 6.0 g, 82%. 1H-NMR (CDCl3): δ 4.2 (2H, CH2), 3.2 (2H, CH2), 2.7 (4H, 2×CH2), 1.8 (2H, CH2), 1.4 (9H, 3×CH3).

reactant | Triethylamine | 36 mmol, 5.0 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 32 mmol, 7.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-aminopropanol | 26.6 mmol, 1.0 g | NCCCO | C3H9NO
reactant | Triethylamine | 36 mmol, 5.0 mL | C(C)N(CC)CC | C6H15N
reactant | succinic anhydride | 30 mmol, 3.0 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | methanol | 10 mL | CO | CH4O
product | Succinic Acid mono-(3-tert-butoxycarbonylamino-propyl) Ester | C(C)(C)(C)OC(=O)NCCCOC(CCC(=O)O)=O | C12H21NO6
